US07176242B2
To a stirred solution of methyl 4-amino-5-butyryl-1-hydroxycyclohexa-2,4-diene-1-carboxylate (1.25 g, 5.2 mmol) in a 1:1 mixture of water/tetrahydrofuran (10 mL) was added p-toluenesulfonic acid monohydrate (1.1 g, 5.8 mmol). The reaction mixture was stirred for 18 h and then partitioned between dichloromethane and water. The organic layer was dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford methyl 5-butyryl-1-hydroxy-4-oxocyclohex-2-ene-1-carboxylate which was used without further purification or characterization.

reactant | methyl 4-amino-5-butyryl-1-hydroxycyclohexa-2,4-diene-1-carboxylate | 5.2 mmol, 1.25 g | NC=1C=CC(CC1C(CCC)=O)(C(=O)OC)O | C12H17NO4
reactant | p-toluenesulfonic acid monohydrate | 5.8 mmol, 1.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water tetrahydrofuran | 10 mL | O.O1CCCC1
product | methyl 5-butyryl-1-hydroxy-4-oxocyclohex-2-ene-1-carboxylate | C(CCC)(=O)C1C(C=CC(C1)(C(=O)OC)O)=O | C12H16O5
